US06235771B1
In DMF (80 ml) was dissolved 4-bromophenol (10 g). To the mixture was added at room temperature potassium carbonate (16.0 g) and then were added 2-chloroethylethyl ether (8.3 ml) and sodium iodide (9.53 g), and the mixture was stirred at 90° C. for 5 hours. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with 1N sodium hydroxide and saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=2/1) to give 1-bromo-4-(2-ethoxyethoxy)benzene (10.7 g). In THF (100 ml) was dissolved 1-bromo-4-(2-ethoxyethoxy)benzene (10.3 g). To the mixture was added dropwise at −78° C. 1.6M n-butyllithium/hexane (29.1 ml), and the mixture was stirred for 1 hour. To the mixture was added dropwise a solution of trimethyl borate (13.2 g) in THF (13 ml) and the mixture was stirred for 30 minutes and warmed to room temperature. To the mixture was added 10% sulfuric acid (50 ml), and the mixture was stirred for 15 minutes. The reaction mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was washed with hexane/isopropylether to give 4-(2-ethoxyethoxy)phenyl borate (2.52 g).

reactant | 4-bromophenol | 10 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | potassium carbonate | 16.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloroethylethyl ether | 8.3 ml | ClCCOCC | C4H9ClO
reactant | sodium iodide | 9.53 g | [I-].[Na+]
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-bromo-4-(2-ethoxyethoxy)benzene | 10.7 g | BrC1=CC=C(C=C1)OCCOCC | C10H13BrO2
